US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-pyridylmethylamino)phenyl]-urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminophenyl)urea (450 mg, 0.727 mmol) in methanol (5 ml) are added nicotinaldehyde (0.137 ml, 1.45 mmol) and conc. hydrochloric acid (0.12 ml, 1.44 mmol) at room temperature. Then, the mixture is cooled under ice-cooling, and thereto is added sodium borohydride (68.6 mg, 1.09 ml), and the mixture is stirred at room temperature for 5 hours. To the mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with an aqueous sodium hydrogen carbonate solution and then dried over anhydrous magnesium sulfate. The solvent is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the title compound (475 mg, 0.654 mmol) as colorless amorphous.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminophenyl)urea | 0.727 mmol, 450 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)N)C(C)C)=O | C32H39N5O3
reactant | nicotinaldehyde | 1.45 mmol, 0.137 ml | C(C1=CN=CC=C1)=O | C6H5NO
reactant | hydrochloric acid | 1.44 mmol, 0.12 ml | Cl | ClH
reactant | sodium borohydride | 1.09 ml, 68.6 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-pyridylmethylamino)phenyl]-urea | 0.654 mmol, 475 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)NCC=1C=NC=CC1)C(C)C)=O | C38H44N6O3
